US06353006B1
(S)-N-isobutylserine methyl ester HCl salt was made from (L)-serine methyl ester as described in Method B3a. The ester was reacted with SOCl2, followed by 2-methyl-4-nitrophenyl isothiocyanate according to Method C2a to afford (4R)-2-(2-methyl-4-nitrophenylimino)-4-(methoxycarbonyl)-3-isobutyl-1,3-thiazolidine HCl salt.

reactant | (S)-N-isobutylserine methyl ester HCl salt | Cl.COC([C@@H](NCC(C)C)CO)=O
reactant | (L)-serine methyl ester | COC([C@@H](N)CO)=O | C4H9NO3
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | (4R)-2-(2-methyl-4-nitrophenylimino)-4-(methoxycarbonyl)-3-isobutyl-1,3-thiazolidine HCl salt | Cl.CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC[C@H](N1CC(C)C)C(=O)OC | InChI=1S/C16H21N3O4S.ClH/c1-10(2)8-18-14(15(20)23-4)9-24-16(18)17-13-6-5-12(19(21)22)7-11(13)3;/h5-7,10,14H,8-9H2,1-4H3;1H/t14-;/m0./s1
